US05270310
N-Hexadecanoyl-N,N',N'-trimethyl-1,3-propanediamine hydrochloride (4, hydrochloride salt)
To a solution of N,N,N'-trimethyl-1,3-propanediamine (25 g, 0.22 mmole) in methylene chloride (500 mL) was added palmitoyl chloride (57 g, 0.20 mmole) dropwise over 4 hours. After the addition was complete the solvent was removed under reduced pressure. The residue was refluxed in diethyl ether (600 mL) overnight. The precipitate was collected and a portion crystallized from ethyl acetate to give the title compound as a white solid. mp. 105.3°-107.9° C. 1H NMR (300 MHz, CD3OD): δ0.894 (3H, t, J=6.5 Hz), 1.282 (2H, bs), 1.56 to 1.64 (2H, m), 1.89 to 1.99 (2H, m), 2.411 (2H, t, J=7.1 Hz), 2.873 (6H, s), 3.071 (3H, s) and 3.460 ppm (2H, t, J=6.4 Hz). Analysis calculated for C22H48ClN2O: C, 67.56; H, 12.12; N, 7.16; Cl, 9.07. Found: C, 67.37; H, 12.03; N, 7.10; Cl, 9.20.

reactant | N,N,N'-trimethyl-1,3-propanediamine | 0.22 mmole, 25 g | CN(CCCNC)C | C6H16N2
reactant | palmitoyl chloride | 0.20 mmole, 57 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | N-Hexadecanoyl-N,N',N'-trimethyl-1,3-propanediamine hydrochloride | Cl.C(CCCCCCCCCCCCCCC)(=O)N(CCCN(C)C)C | InChI=1S/C22H46N2O.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-19-22(25)24(4)21-18-20-23(2)3;/h5-21H2,1-4H3;1H
